US04046763
3-Hydroxy-5-phenylpyrazine-2-carboxamide is prepared by the method of Dick, Wood and Logan, J. Chem. Soc., 2131 (1956). The carboxamide is converted to 6-phenylpyrazinol by the method of Jezo and Luzak, Chem. Zvest., 22, 190 (1968), using 80 percent sulfuric acid at 180° C. Using the procedure of Example III and replacing 5-phenylpyrazinol with an equivalent amount of 6-phenylpyrazinol, the product obtained is 2-chloro-6-phenylpyrazine. Using the procedure of Example V and replacing 2-chloro-5-phenylpyrazine with an equivalent amount of 2-chloro-6-phenylpyrazine, the product obtained is diethyl α-methyl-6-phenylpyrazinylmalonate. Using the procedure of Example VI and replacing diethyl α-methyl-5-phenylpyrazinylmalonate with an equivalent amount of diethyl α-methyl-6-phenylpyrazinylmalonate, the product obtained is ethyl α-methyl-6-phenylpyrazineacetate. Using the procedure of Example IX and replacing ethyl α-methyl-5-phenylpyrazineacetate with an equivalent amount of ethyl α-methyl-6-phenylpyrazineacetate, the product obtained is α-methyl-6-phenylpyrazineacetic acid. Using the procedure of Example XI and replacing ethyl α-methyl-5 -phenylpyrazineacetate with an equivalent amount of ethyl α-methyl-6-phenylpyrazineacetate, the product obtained is α-methyl-6-phenylpyrazineacetamide.

reactant | 6-phenylpyrazinol | C1(=CC=CC=C1)C1=CN=CC(=N1)O | C10H8N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-phenylpyrazinol | C1(=CC=CC=C1)C=1N=CC(=NC1)O | C10H8N2O
reactant | 2-chloro-6-phenylpyrazine | ClC1=NC(=CN=C1)C1=CC=CC=C1 | C10H7ClN2
reactant | 2-chloro-5-phenylpyrazine | ClC1=NC=C(N=C1)C1=CC=CC=C1 | C10H7ClN2
reactant | diethyl α-methyl-6-phenylpyrazinylmalonate | CC(C(=O)OCC)(C(=O)OCC)C1=NC(=CN=C1)C1=CC=CC=C1 | C18H20N2O4
reactant | diethyl α-methyl-5-phenylpyrazinylmalonate | CC(C(=O)OCC)(C(=O)OCC)C1=NC=C(N=C1)C1=CC=CC=C1 | C18H20N2O4
reactant | ethyl α-methyl-6-phenylpyrazineacetate | CC(C(=O)OCC)C1=NC(=CN=C1)C1=CC=CC=C1 | C15H16N2O2
reactant | ethyl α-methyl-5-phenylpyrazineacetate | CC(C(=O)OCC)C1=NC=C(N=C1)C1=CC=CC=C1 | C15H16N2O2
reactant | α-methyl-6-phenylpyrazineacetic acid | CC(C(=O)O)C1=NC(=CN=C1)C1=CC=CC=C1 | C13H12N2O2
reactant | α-methyl-6-phenylpyrazineacetamide | CC(C(=O)N)C1=NC(=CN=C1)C1=CC=CC=C1 | C13H13N3O
product | 3-Hydroxy-5-phenylpyrazine-2-carboxamide | OC=1C(=NC=C(N1)C1=CC=CC=C1)C(=O)N | C11H9N3O2
